US06852726B2
(5-Chloro-3-methanesulfinyl-indol-1-yl)-acetonitrile
To a solution of (5-chloro-3-methylsulfanyl-indol-1-yl)-acetonitrile (1.0 g, 4.22 mmole) dissolved in methanol (65 ml) cooled to ca. 0° C., was added a cold solution (ca. 7° C.) of Oxone® (1.29 g, 2.11 mmole) dissolved in water (40 ml) in portions over a 10 minute time period. The cooling bath was removed and the solution was stirred at room temperature for 4 h. Tlc analysis at this point showed some unreacted starting material and thus 0.1 g more Oxone® was added and the mixture continued stirring overnight. The reaction mixture was evaporated to dryness and the residue was taken up in methanol and the insoluble material was filtered. The methanol soluble material was isolated by evaporation of the solvent and the residue was triturated with ether which was discarded and then with toluene. The solid which remained was further purified by column chromatography (silica gel) eluting with methanol:methylene chloride (3:97). The resulting (5-chloro-3-methanesulfinyl-indol-1-yl)-acetonitrile weighed 0.851 g (80% yield) after drying.

reactant | (5-chloro-3-methylsulfanyl-indol-1-yl)-acetonitrile | 4.22 mmole, 1.0 g | ClC=1C=C2C(=CN(C2=CC1)CC#N)SC | C11H9ClN2S
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | methanol | 65 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
product | (5-Chloro-3-methanesulfinyl-indol-1-yl)-acetonitrile | 80% yield | ClC=1C=C2C(=CN(C2=CC1)CC#N)S(=O)C | C11H9ClN2OS
